Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
back and leg pain
 
Major Surgical or Invasive Procedure:
XLIF L2-L4
Posterior L2-S1 laminectomy and fusion

 
History of Present Illness:
___ presented to Dr. ___ office with complaints of 
worsening back and leg pain. After review of the patients 
history and physical examination in the office, as well as 
radiographic studies, it was determined they would be a good 
candidate for multilevel lumbar fusion. The patient was in 
agreement with the plan and consent was obtained and signed.
 
Past Medical History:
Chronic lower back pain, previously on suboxone
HTN
ADHD
multiple spine surgeries 
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
On examination the patient is well developed, well nourished, 
A&O x3 in NAD. AVSS.
Range of motion of the lumbar spine is somewhat limited on 
flexion, extension and lateral bending due to pain.
Ambulating well with the assistance of a walker and ___, with 
lumbar corset brace for support.
Gross motor examination reveals good strength throughout the 
bilateral lower extremities.
There is no clonus present. 
Sensation is intact throughout all affected dermatomes.
The lateral and posterior lumbar incisions are clean, dry and 
intact without erythema, edema or drainage.
The patient is voiding well without a foley catheter.

 
Pertinent Results:
___ 06:55AM BLOOD WBC-8.0 RBC-3.69*# Hgb-10.5*# Hct-31.6*# 
MCV-86 MCH-28.5 MCHC-33.2 RDW-14.8 RDWSD-45.6 Plt ___
___ 06:55AM BLOOD Glucose-98 UreaN-7 Creat-0.5 Na-138 K-3.8 
Cl-102 HCO3-28 AnGap-12
___ 06:55AM BLOOD Calcium-7.9* Phos-2.4* Mg-1.___riefly, ___ was admitted to the ___ Spine Surgery 
Service on ___ and taken to the Operating Room for XLIF 
through an anterior-lateral approach. Please refer to the 
dictated operative note for further details. The surgery was 
performed without complication, the patient tolerated the 
procedure well and was transferred to the PACU in a stable 
condition. TEDs/pnemoboots were used for postoperative DVT 
prophylaxis. Intravenous antibiotics were given per standard 
protocol. Initial postop pain was controlled with a dilaudid 
PCA. The patient remained NPO. On HD#2, she returned to the 
operating room for a posterior lumbar laminectomy and fusion 
scheduled as part of a staged 2-part procedure. Please refer to 
the dictated operative note for further details. The second 
surgery was also without complication and the patient was 
transferred to the PACU in a stable condition. Postoperative 
labs were grossly stable. A bupivicaine epidural pain catheter 
placed at the time of the posterior surgery remained in place 
until postop day one. The patient remained NPO until bowel 
function returned, then diet was advanced as tolerated. The 
patient was transitioned to oral pain medication when tolerating 
PO diet. Foley was removed on POD#3 from the second procedure, 
and the patient was able to void. A hemovac drain that was 
placed at the time of surgery was also removed on POD#2. She 
received 2 units of pRBCs on POD#2 due to acute post-operative 
blood loss anemia. A lumbar corset brace was fitted for comfort 
and support. Physical therapy was consulted for mobilization OOB 
to ambulate. Hospital course was otherwise unremarkable. On the 
day of discharge the patient was afebrile with stable vital 
signs, comfortable on oral pain control and tolerating a regular 
diet.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 800 mg PO TID 
2. ZIPRASidone Hydrochloride 80 mg PO QHS 
3. CloNIDine 0.2 mg PO TID 
4. OxyCODONE (Immediate Release) 30 mg PO Q4H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Diazepam 5 mg PO Q6H:PRN spasm 
RX *diazepam [Valium] 5 mg 1 tab by mouth every six (6) hours 
Disp #*90 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  Morphine SR (MS ___ 30 mg PO Q12H 
RX *morphine [MS ___ 30 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*60 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab PO twice a day Disp #*60 
Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 15 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*90 Tablet Refills:*0 
7.  CloNIDine 0.2 mg PO TID  
8.  Gabapentin 800 mg PO TID 
RX *gabapentin [Neurontin] 800 mg 1 tablet(s) by mouth three 
times a day Disp #*90 Tablet Refills:*0 
9.  ZIPRASidone Hydrochloride 80 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Lumbar spondylosis, scoliosis, and
stenosis.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
ACTIVITY: DO NOT lift anything greater than 10 lbs for 2 weeks. 

___ times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 

You will be more comfortable if you do not sit or stand more 
than ~45 minutes without changing positions.

BRACE: You have been given a brace. This brace should be worn 
for comfort when you are walking. You may take it off when 
sitting in a chair or while lying in bed.

WOUND: Remove the external dressing in 2 days. If your incision 
is draining, cover it with a new dry sterile dressing. If it is 
dry then you may leave the incision open to air. Once the 
incision is completely dry, (usually ___ days after the 
operation) you may shower. Do not soak the incision in a bath or 
pool until fully healed. If the incision starts draining at any 
time after surgery, cover it with a sterile dressing. Please 
call the office. 
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

MEDICATIONS: You should resume taking your normal home 
medications. Refrain from NSAIDs immediately post operatively.

You have also been given Additional Medications to control your 
post-operative pain. Please allow our office 72 hours for refill 
of narcotic prescriptions. Please plan ahead. You can either 
have them mailed to your home or pick them up at ___ Spine 
Specialists, ___. We are not able 
to call or fax narcotic prescriptions to your pharmacy. In 
addition, per practice policy, we only prescribe pain 
medications for 90 days from the date of surgery.

 
Followup Instructions:
___